US07157454B2
A) 2-(tert-Butoxycarbonylamino)-3-(4-cyanophenyl)-1-(pyrrolidin-1-yl)propan-1-one
7.5 g of BOP are added to a mixture of 4.06 g of 2-(tert-butoxycarbonylamino)-3-(4-cyanophenyl)propionic acid and 1.15 ml of pyrrolidine in 20 ml of DMF, and the mixture is stirred for 2 hours at RT, while maintaining the pH at 7 by adding N-ethylmorpholine. The reaction mixture is concentrated under vacuum and the residue is chromatographed on silica gel, eluting with a chloroform/MeOH mixture (95/5; v/v). 3.8 g of the expected product are obtained.

reactant | BOP | 7.5 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 2-(tert-butoxycarbonylamino)-3-(4-cyanophenyl)propionic acid | 4.06 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=CC=C(C=C1)C#N | C15H18N2O4
reactant | pyrrolidine | 1.15 ml | N1CCCC1 | C4H9N
reactant | N-ethylmorpholine | C(C)N1CCOCC1 | C6H13NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(tert-Butoxycarbonylamino)-3-(4-cyanophenyl)-1-(pyrrolidin-1-yl)propan-1-one | 3.8 g | C(C)(C)(C)OC(=O)NC(C(=O)N1CCCC1)CC1=CC=C(C=C1)C#N | C19H25N3O3
